US06451814B1
4-[(2S)-2-Hydroxy-3-(2-{4-[1-(toluene-4-sulfonyl)-piperidin-4-ylamino]-phenyl}-ethylamino)-propoxy]-phenol
N-[4-(2-Aminoethyl)phenyl]-1-[(4-methylphenyl)sulfonyl]-4-piperidinamine (0.275 g, 0.65 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.251 g, 0.62 mmol) according to Procedure G to give the title compound (0.130 g, 0.167 mmol).

reactant | N-[4-(2-Aminoethyl)phenyl]-1-[(4-methylphenyl)sulfonyl]-4-piperidinamine | 0.65 mmol, 0.275 g | NCCC1=CC=C(C=C1)NC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C | C20H27N3O2S
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.62 mmol, 0.251 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | 4-[(2S)-2-Hydroxy-3-(2-{4-[1-(toluene-4-sulfonyl)-piperidin-4-ylamino]-phenyl}-ethylamino)-propoxy]-phenol | 0.167 mmol, 0.130 g | O[C@H](COC1=CC=C(C=C1)O)CNCCC1=CC=C(C=C1)NC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C | C29H37N3O5S
